US04196300
To a solution of 1.42 g (0.005 mole) of 2-tetradecylglycidic acid in 10 ml of tetrahydrofuran (THF) at 0° C. (ice-water bath) with stirring is added 0.50 g (0.005 mole) of triethylamine in a small amount of THF. The solution is stirred at 0° C. for 30 minutes and 0.51 g (0.005 mole) of ethyl chloroformate is added. The mixture is stirred at about 0° C. (ice-water bath) for 3 hours (ppt. of Et3N.HCl observed). At the end of 3 hours 0.429 g (0.015 mole) of dimethyl amine in THF is added and the mixture stirred overnight (16 hours) at room temperature. The THF solvent is concentrated to about 1/3 its volume, water is added and the mixture extracted with ether. The ether extract is dried over Na2SO4 and the ether solvent removed. A crude oily residue is obtained which is purified by column chromatography on silica gel. A 37.8% yield of pure N,N-dimethyl-2-tetradecylglycidamide is obtained, m.p. 40°-42° C.

reactant | 2-tetradecylglycidic acid | 0.005 mole, 1.42 g | CC(CCCCCCCCCCCC)C1(C(=O)O)CO1 | C17H32O3
reactant | triethylamine | 0.005 mole, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.005 mole, 0.51 g | ClC(=O)OCC | C3H5ClO2
reactant | Et3N.HCl | N(CC)(CC)CC.Cl
reactant | dimethyl amine | 0.015 mole, 0.429 g | CNC | C2H7N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-2-tetradecylglycidamide | 37.8% yield | CN(C(C1(CO1)C(C)CCCCCCCCCCCC)=O)C | C19H37NO2
